US07262196B2
Reaction of 5-bromo-2-fluoropyridine (1.50 g, 8.5 mmol) with (Z)-methyl 3-cyclopentyl-2-iodoacrylate (2.60 g, 9.3 mmol), according to the cross-coupling conditions described above in Step 2 of Preparation 9, gave (E)-methyl 3-cyclopentyl-2-(6-fluoropyridin-3-yl)acrylate: m/z (ES+)=250.1 [M+H]+. Step 2: A solution of this α,β-unsaturated ester (1.50 g, 6.0 mmol) in EtOAc was treated with a suspension of Pd (10% on C, 300 mg, 0.3 mmol) in EtOH (0.5 mL). The reaction was stirred under a H2 atmosphere for 4 d and then filtered through Celite. The solvents were removed under reduced pressure, then the residue was purified by column chromatography to give methyl 3-cyclopentyl-2-(6-fluoropyridin-3-yl)propionate: m/z (ES+)=252.2 [M+H]+. Step 3: A solution of this ester (1.48 g, 5.9 mmol) and LiOH.H2O (0.49 g, 11.8 mmol) in THF-H2O (5:1, 24 mL) was stirred at 20° C. for 18 h. The THF was removed in vacuo, then the remainder was partitioned between saturated aqueous Na2CO3 (150 mL) and Et2O (75 mL). The pH of the aqueous layer was adjusted to 3 with 2M HCl. The remainder was extracted with EtOAc (100 mL+75 mL). The combined organic extracts were washed with brine, dried (MgSO4), filtered, and concentrated to give the title compound: m/z (ES+)=238.1 [M+H]+.

reactant | 5-bromo-2-fluoropyridine | 8.5 mmol, 1.50 g | BrC=1C=CC(=NC1)F | C5H3BrFN
reactant | (Z)-methyl 3-cyclopentyl-2-iodoacrylate | 9.3 mmol, 2.60 g | C1(CCCC1)\C=C(\C(=O)OC)/I | C9H13IO2
product | (E)-methyl 3-cyclopentyl-2-(6-fluoropyridin-3-yl)acrylate | C1(CCCC1)/C=C(/C(=O)OC)\C=1C=NC(=CC1)F | C14H16FNO2
